US07994203B2
Step 2: 3-(2,4-Dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazol-7-ylamine
To a stirred suspension of black nickel boride (prepared in situ from 0.50 g, 2.15 mmol nickel (II) chloride hexahydrate and (0.080 g, 2.15 mmol sodium borohydride) in MeOH (15 ml) at RT is added a solution of 3-(2,4-dichloro-phenyl)-2,6-dimethyl-7-nitro-pyrazolo[5,1-b]oxazole (1.40 g, 4.29 mmol) in MeOH (55 ml). Further sodium borohydride (0.74 g, 19.5 mmol) is added in portions and the reaction is stirred at RT for 1 hour. The reaction is quenched by the addition of water (200 ml) and reduced in vacuo to remove the MeOH. EtOAc is added and the mixture passed through a Celite® (filter material) 521 pad. The crude product is extracted with EtOAc (2×125 ml) and the combined extracts are then extracted using 0.2N HCl (2×120 ml). The aqueous portions are combined and basified with 1N NaOH to pH10 to yield the title compound as a solid, which is filtered off and dried in vacuo; MS: m/z 296.1 [M+H]+

reactant | sodium borohydride | 2.15 mmol, 0.080 g | [BH4-].[Na+]
reactant | 3-(2,4-dichloro-phenyl)-2,6-dimethyl-7-nitro-pyrazolo[5,1-b]oxazole | 4.29 mmol, 1.40 g | ClC1=C(C=CC(=C1)Cl)C=1N2C(OC1C)=C(C(=N2)C)[N+](=O)[O-] | C13H9Cl2N3O3
reactant | sodium borohydride | 19.5 mmol, 0.74 g | [BH4-].[Na+]
solvent | MeOH | 15 ml | CO | CH4O
solvent | MeOH | 55 ml | CO | CH4O
catalyst | nickel boride | B#[Ni]
catalyst | nickel (II) chloride hexahydrate | 2.15 mmol, 0.50 g | O.O.O.O.O.O.[Ni](Cl)Cl
product | 3-(2,4-Dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazol-7-ylamine | ClC1=C(C=CC(=C1)Cl)C=1N2C(OC1C)=C(C(=N2)C)N | C13H11Cl2N3O
